US09163011B2
a) 3-Chloro-5-(1-ethoxy-vinyl)-pyridine-2-carboxylic acid methyl ester
To a solution of 5-bromo-3-chloro-pyridine-2-carboxylic acid methyl ester [1458-18-0] (376 mg, 1.5 mmol) in dioxane (3.7 ml) was added tributyl-(1-ethoxy-vinyl)-stannane [97674-02-7] (596 mg, 1.65 mmol), the solution was degassed and flushed with nitrogen (3×), Pd(PPh3)4 (87 mg, 0.075 mmol) was added, after degassing and flushing with nitrogen the mixture was heated to reflux for 4 h. The reaction mixture was diluted with EtOAc and treated with 10% aq. KF, the precipitate was filtered off and the layers were separated. The aq. Phase was extracted with EtOAc, the combined organic layers were washed with sat. aq. NaCl, dried with MgSO4, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (cyclohexane/EtOAc 12:1 to 6/1) to provide the title compound as yellow solid.

reactant | 5-bromo-3-chloro-pyridine-2-carboxylic acid methyl ester | 1.5 mmol, 376 mg | COC(=O)C1=NC=C(C=C1Cl)Br | C7H5BrClNO2
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 1.65 mmol, 596 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 3.7 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.075 mmol, 87 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Chloro-5-(1-ethoxy-vinyl)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1Cl)C(=C)OCC | C11H12ClNO3
